US09328138B2
Step 1: methyl (1aR,5S,8S,10R,22aR)-17-(3-bromopropoxy)-5-tert-butyl-13-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxylate
To a solution of methyl (1aR,5S,8S,10R,22aR)-5-tert-butyl-17-hydroxy-13-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxylate (253 mg) (prepared by the same method as Example 113, Steps 1-5 with intermediates B10 and C8) and 1,3-dibromopropane (500 μl) in DMF (5 ml) was added cesium carbonate (700 mg). After 90 minutes of stirring at room temperature, the reaction mixture was partitioned between water/brine 1:1 and ethyl acetate. The product was extracted twice with ethyl acetate and the combined organic phases were washed with water and brine, dried over sodium sulfate and evaporated. The crude residue was purified by flash chromatography (ISCO 10%-50% ethyl acetate in hexanes) to afford a white solid (231 mg). LRMS (ES+) m/z 704.30 (M+H)+.

reactant | methyl (1aR,5S,8S,10R,22aR)-5-tert-butyl-17-hydroxy-13-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxylate | 253 mg | C(C)(C)(C)[C@@H]1NC(O[C@H]2[C@H](CCCCCC=3C(=NC=4C(=CC=CC4C3O)OC)O[C@@H]3C[C@H](N(C1=O)C3)C(=O)OC)C2)=O | C31H41N3O8
reactant | 1,3-dibromopropane | 500 μl | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 700 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl (1aR,5S,8S,10R,22aR)-17-(3-bromopropoxy)-5-tert-butyl-13-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,18,19,20,21,22,22a-tetradecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoline-8-carboxylate | 231 mg | BrCCCOC1=C2C(=NC=3C(=CC=CC13)OC)O[C@@H]1C[C@H](N(C([C@@H](NC(O[C@H]3[C@H](CCCCC2)C3)=O)C(C)(C)C)=O)C1)C(=O)OC | C34H46BrN3O8
